US07179934B2
(S)-2-((R)-4-Cyclohexyl-2-methyl-butyl)-succinic acid 4-tert-butyl ester
A flask was charged with 4.13 g (8.50 mmol) of (5R,3S)-7-cyclohexyl-5-methyl-3-((4R,5R)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-heptanoic acid tert-butyl ester, 100 mL of THF, 25 mL of water, and the resulting mixture was cooled in a 0° C. bath. To this solution was added 0.57 g (13.6 mmol) of lithium hydroxide monohydrate and 3.48 mL (34 mmol) of 30% hydrogen peroxide. The mixture was stirred for 2.5 hours. The reaction was quenched by the addition of 4.29 g (34 mmol) of sodium sulfite in 26 mL water. The mixture was allowed to warm to room temperature and stirred overnight. The THF was removed under reduced pressure and the remaining material was further diluted with water. The water layer was made acidic by the slow addition of conc. HCl aq. The aqueous layer was extracted with dichloromethane. The organic layers were dried with magnesium sulfate. The resulting oil was purified by column chromatography (eluent 3:1 hexanes:ethyl acetate). This gave 2.19 g (79% yield) of a clear oil: 1H NMR (400 MHz, CDCl3) δ ppm 0.88 (m, 5 H) 1.17 (m, 10 H) 1.43 (s, 10 H) 1.68 (m, 7 H) 2.35 (dd, J=16.35, 5.37 Hz, 1 H) 2.60 (m, 1 H) 2.87 (m, J=9.09, 9.09, 5.61, 5.49 Hz, 1 H). MS (APCl) m+1/z is inconclusive.

reactant | (5R,3S)-7-cyclohexyl-5-methyl-3-((4R,5R)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-heptanoic acid tert-butyl ester | 8.50 mmol, 4.13 g | C(C)(C)(C)OC(C[C@H](C[C@@H](CCC1CCCCC1)C)C(=O)N1C(O[C@@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C29H43NO5
reactant | lithium hydroxide monohydrate | 13.6 mmol, 0.57 g | O.[OH-].[Li+]
reactant | hydrogen peroxide | 34 mmol, 3.48 mL | OO | H2O2
reactant | sodium sulfite | 34 mmol, 4.29 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 26 mL | O | H2O
solvent | water | 25 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (S)-2-((R)-4-Cyclohexyl-2-methyl-butyl)-succinic acid 4-tert-butyl ester | 2.19 g, 79% yield | C(C)(C)(C)OC(C[C@@H](C(=O)O)C[C@@H](CCC1CCCCC1)C)=O | C19H34O4
